US08110588B2
3-(2-Fluoro-4-trifluoromethyl-phenyl)-5-(4-methoxy-phenyl)-3H-[1,2,3]triazol-4-ylamine (14)
To a stirred and ice-cooled solution of sodium methoxide (1.659 g, 30.7146 mmol) in methanol (50 ml), 4-methoxyphenylacetonitrile (3.728 g, 24.5717 mmol) and 1-azido-2-fluoro-4-trifluoromethyl-benzene (4.200 g, 20.4764 mmol) are added portion wise and the mixture is allowed attain room temperature spontaneously and refluxed overnight. The resulting reaction mixture is concentrated, added water, and extracted with chloroform (3×100 mL). The combined organic layers are dried over MgSO4, filtered and concentrated to afford a brownish gummy material (5.900 g, 82% mass balance). The crude residue is purified by column chromatography over silica gel (230-400 mesh), eluting with 15% ethylacetate in hexane, to obtain the title compound as a grey solid (0.120 g, 1.5% yield). A major impurity isolated and characterized is 5-(4-methoxy-phenyl)-3-(2-methoxy-4-trifluoromethyl-phenyl)-3H-[1,2,3]triazol-4-ylamine (2.400 g, ˜33% yield).

reactant | sodium methoxide | 30.7146 mmol, 1.659 g | C[O-].[Na+]
reactant | 4-methoxyphenylacetonitrile | 24.5717 mmol, 3.728 g | COC1=CC=C(C=C1)CC#N | C9H9NO
reactant | 1-azido-2-fluoro-4-trifluoromethyl-benzene | 20.4764 mmol, 4.200 g | N(=[N+]=[N-])C1=C(C=C(C=C1)C(F)(F)F)F | C7H3F4N3
solvent | methanol | 50 ml | CO | CH4O
product | 3-(2-Fluoro-4-trifluoromethyl-phenyl)-5-(4-methoxy-phenyl)-3H-[1,2,3]triazol-4-ylamine | 0.120 g, 1.5% yield | FC1=C(C=CC(=C1)C(F)(F)F)N1N=NC(=C1N)C1=CC=C(C=C1)OC | C16H12F4N4O
